US06008243
According to the procedure described in Example 1(a), 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-(4,4-dimethyl-2-oxo-tetrahydrofuran-3(S)-yl)succinamic acid benzyl ester was hydrogenolyzed in EtOH/EtOAc for 3 h to give a 81% yield of 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-(4,4-dimethyl-2-oxo-tetrahydrofuran-3(S)-yl)succinamic acid: 1HNMR (DMSO-d6): δ 12.2 (bs, 1H), 8.48 (d, 1H, J=8.8 Hz), 7.92 (s, 4H), 7.86 (d, 2H, J=8.5 Hz), 7.67 (d, 2H, J=8.5 Hz), 7.40 (s, 1H), 7.37 (s, 1H), 6.33 (s, 1H), 4.75 (d, 1H, J=8.8 Hz), 4.08, 4.00 (AB quartet, 2H, J=8.6 Hz), 3.97-3.92 (m, 1H), 3.01-2.92 (m, 1H), 2.64 (dd, 1H, J=16.54, 4.0 Hz), 1.05 (s, 3H), 0.97 (s, 3H); Anal. Calculated for C27H25N3O5.C5H12O (MTBE): C, 68.67; H, 6.66; N, 7.51. Found: 69.00, 68.91; H, 6.42; N, 7.60, 7.52.

reactant | 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-(4,4-dimethyl-2-oxo-tetrahydrofuran-3(S)-yl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H]1C(OCC1(C)C)=O)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)=O | C34H31N3O5
solvent | EtOH EtOAc | CCO.CCOC(=O)C
product | 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-(4,4-dimethyl-2-oxo-tetrahydrofuran-3(S)-yl)succinamic acid | 81% yield | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C=C(C=C1)[C@H](CC(=O)O)C(=O)N[C@@H]1C(OCC1(C)C)=O | C27H25N3O5
